US07994202B2
2-{(3-phenyl-1H-indazol-1-yl)methyl}thiazole-4-carboxylic acid
Sodium hydride (added with 40% mineral oil, 9 mg, manufactured by Kanto Chemical Co., Inc.) was added to a solution of 3-phenyl-1H-indazole (40 mg), which had been synthesized according to the literature (T. Edward, C., et al., Tetrahedron, 1991, 47, 9599-9620), in N,N-dimethylformamide (1 mL, manufactured by Kanto Chemical Co., Inc.) under ice cooling, and the mixture was stirred for 5 minutes at the same temperature. Subsequently, ethyl 2-bromomethylthiazole-4-carboxylate (51 mg) synthesized according to the method of the literature (K. Benno, et al., Leibigs. Ann. Chem., 1981, 4, 623-632) was added thereto, and the mixture was stirred overnight at room temperature. Water (1 mL) was added to the reaction solution, and the mixture was extracted with ethyl acetate (3×2 mL), washed with brine (10 mL), and dried (MgSO4). The solvent was then evaporated. The resulting residue was purified by PTLC (hexane:ethyl acetate=2:1), to give 7.2 mg of the title compound. LC-MS: HPLC retention time 4.08 minutes, m/z 336 (M+H), condition A-1.

reactant | Sodium hydride | 9 mg | [H-].[Na+]
reactant | 3-phenyl-1H-indazole | 40 mg | C1(=CC=CC=C1)C1=NNC2=CC=CC=C12 | C13H10N2
reactant | ethyl 2-bromomethylthiazole-4-carboxylate | 51 mg | BrCC=1SC=C(N1)C(=O)OCC | C7H8BrNO2S
reactant | Water | 1 mL | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-{(3-phenyl-1H-indazol-1-yl)methyl}thiazole-4-carboxylic acid | 7.2 mg | C1(=CC=CC=C1)C1=NN(C2=CC=CC=C12)CC=1SC=C(N1)C(=O)O | C18H13N3O2S
